US08138189B2
Step 6: 4-[3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenoxymethyl]-benzoic acid ethyl ester
To a suspension of 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenol (68 mg) in N,N-dimethylacetamide (1 ml) was added NaH (55% dispersion in mineral oil, 8.5 mg) at 0° C. The mixture was stirred at 0° C. for 1 h and at room temperature for 1 h. Ethyl-4-(bromomethyl)benzoate (48 mg) was added and the mixture was stirred overnight. Since the reaction was not finished, tetrabutylammonium iodide (6.5 mg) and NaH (55% dispersion in mineral oil, 8.5 mg) were added and the mixture was stirred overnight at room temperature and for 2 h at 50° C. Ethyl-4-(bromomethyl)benzoate (4 mg) was added and the mixture was stirred for 2 h at 50° C. The reaction mixture was poured into water and extracted with EtOAc. The organic phase was washed with water and brine, dried (MgSO4), filtered and concentrated. The product was purified by chromatography (SiO2, cyclohexane=>cyclohexane/EtOAc 1:1) to give the title compound (40 mg) as an orange solid. MS (m/e)=543.8 [M+H+].

reactant | 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenol | 68 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C=1C=NC2=CC=CC=C2C1)O)C)O | C19H15ClF3NO2
reactant | NaH | 8.5 mg | [H-].[Na+]
reactant | Ethyl-4-(bromomethyl)benzoate | 48 mg | C(C)OC(C1=CC=C(C=C1)CBr)=O | C10H11BrO2
reactant | NaH | 8.5 mg | [H-].[Na+]
reactant | Ethyl-4-(bromomethyl)benzoate | 4 mg | C(C)OC(C1=CC=C(C=C1)CBr)=O | C10H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
catalyst | tetrabutylammonium iodide | 6.5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-1-methyl-2-quinolin-3-yl-propyl)-phenoxymethyl]-benzoic acid ethyl ester | 40 mg | C(C)OC(C1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C(C(F)(F)F)(C=1C=NC2=CC=CC=C2C1)O)C)Cl)=O | C29H25ClF3NO4
